US07501424B2
Preparation of 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid
4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester prepared in Preparation 8 (19.6 g, 59.6 mmole) and 2N-sodium hydroxide (190 ml) were added to a reaction vessel under the solvent of water (190 ml) and ethanol (190 ml), mixed under reflux and cooled to RT, and pH thereof was adjusted to 1˜2 with hydrochloride solution. The mixture was mixed for 1 hr, and filtered to give the titled compound as yellow solid.

reactant | 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C18H16N4O2
reactant | sodium hydroxide | 190 ml | [OH-].[Na+]
reactant | water | 190 ml | O | H2O
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 190 ml | C(C)O | C2H6O
product | 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C16H12N4O2
